US06319946B1
[(1S,2R)-1-Benzyl-3-(4-cyano-2,2-dimethyl-butylamino)-2-hydroxy-propyl]-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester
A solution of (2S,3R)-(4-Cyano-2,2-dimethyl-butyl)-[3-((3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yloxycarbonylamino)-2-hydroxy-4-phenyl-butyl]-carbamic acid benzyl ester (0.740 g, 1.28 mmol) in EtOAc at ambient temperature was treated with 10% palladium on carbon (0.075 g) and stirred under a balloon of hydrogen. After stirring 16 h the mixture was filtered and solvent was removed in vacuo to give desired product as a colorless oil.

reactant | (2S,3R)-(4-Cyano-2,2-dimethyl-butyl)-[3-((3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yloxycarbonylamino)-2-hydroxy-4-phenyl-butyl]-carbamic acid benzyl ester | 1.28 mmol, 0.740 g | C(C1=CC=CC=C1)OC(N(C[C@@H]([C@@H](CC1=CC=CC=C1)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21)O)CC(CCC#N)(C)C)=O | C32H41N3O7
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 0.075 g | [Pd] | Pd
product | [(1S,2R)-1-Benzyl-3-(4-cyano-2,2-dimethyl-butylamino)-2-hydroxy-propyl]-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CNCC(CCC#N)(C)C)O)CC2=CC=CC=C2)=O | C24H35N3O5
